US03975524
1-Thiomorpholino-3-piperazino-5-nitro-isoquinoline was prepared analogous to Example 3 from 1-thiomorpholino-3-chloro-5-nitro-isoquinoline by heating for 5 hours with piperazine in dioxane at 100°C. M.p. of its hydrochloride: 245°-247°C (from water); yield: 53% of theory.

reactant | 1-thiomorpholino-3-chloro-5-nitro-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)[N+](=O)[O-])Cl | C13H12ClN3O2S
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | hydrochloride | Cl | ClH
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-Thiomorpholino-3-piperazino-5-nitro-isoquinoline | yield: 53% | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)[N+](=O)[O-])N1CCNCC1 | C17H21N5O2S
